Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
divalproex sodium / codeine
 
Attending: ___
 
Chief Complaint:
fever, n/v
 
Major Surgical or Invasive Procedure:
Colonoscopy/EGD ___

 
History of Present Illness:
___ with seizure disorder, bipolar who is s/p renal embolization 
(___) for perinephric and RP hematoma due to a 
renal lac from complications of lithotropsy who was transferred 
from OSH with fever (100.4 at OSH), nausea/vomiting. CT scan at 
___ showed large right periphric hematoma which was reviewed at 
___ and found to be unchanged from prior studies with low 
concern for infection of hematoma. 

On arrival at ___, pt was afebrile and not complaining of any 
pain, but has had one episode of dark brown emesis. Pt is 
oriented, but affect is flat and he is a poor historian. Pt 
given one dose of Zosyn at OSH, and additional Zosyn and 
Vancomycin at ___. He had BRBPR on DRE and GI was consulted in 
the ED who felt he may be hemoconcentrated in setting of 
infection. 

Of note, on his last admission he had episodes of emesis that 
improved with bowel movements. He also had episodes of tachypnea 
and founf to have pleural effusions. He was given IV Lasix with 
improvement in tachypnea. 

Urology consulted in the ED and they reviewed imaging and 
discussed with radiology and agree that there is likely no 
infection in the perinephric hematoma. 

Flu Swab completed in the ED. 

In the ED, initial vitals: 4 97.8 104 124/64 18 96% RA  
 - Labs notable for: WBC 16.9 H&H ___ after 1L IVF, platelets 
of 106, UA with 10 ketones. 
 - Imaging notable for:  Chest xray showing 1. Low lung volumes.
2. Moderate right pleural effusion.
3. No focal consolidation, edema, or pneumothorax
 - Patient given:  Vanc/Zosyn, 1 L IVF, Zofran, PPI. 
 - Vitals prior to transfer: 0 90 130/75 23 99% RA  

On arrival to the floor, pt reports feeling weak. He states he's 
had ___ days of nausea and vomiting but unsure how many times 
and unsure if any blood. He also reports some loose stools but 
states this is chronic. He is unsure if his ABD pain is in 
relation to food but does report a burning CP/Epigastric pain 
occasionally. 
 
Past Medical History:
Past Medical History: Seizure disorder, bipolar disorder, kidney 
 
 stones  
 Past Surgical History: Appendectomy, tonsillectomy, knee 
surgery,  
 lithotripsy (___)  

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM:
Vitals: 98.9 PO 132 / 83 85 18 97 RA 
General: Alert, flat affect, NAD. 
HEENT: Sclera anicteric, MM dry, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, but with inspiratory 
crackles bibasilarly. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, TTP in LLQ, non-distended, bowel sounds present, 
no rebound tenderness or guarding, does have spleenomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions 

DISCHARGE EXAM:
Vitals:  98.2 ___ 20 100RA
General: Alert, flat affect, NAD. 
HEENT: Sclera anicteric, MM dry, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, but with inspiratory 
crackles bibasilarly. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended, bowel sounds present, no rebound 
tenderness or guarding, does have spleenomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions   
Neuro: A&Ox3, CN II-XII intact, ___ BUE/BLE, sensation intact to 
LT BUE/BLE
 
Pertinent Results:
ADMISSION LABS
___ 07:29AM BLOOD WBC-16.9*# RBC-3.36* Hgb-9.8* Hct-31.4* 
MCV-94 MCH-29.2 MCHC-31.2* RDW-15.9* RDWSD-54.2* Plt ___
___ 07:29AM BLOOD ___ PTT-25.0 ___
___ 11:32AM BLOOD Ret Aut-3.2* Abs Ret-0.09
___ 07:29AM BLOOD Glucose-114* UreaN-20 Creat-0.9 Na-138 
K-3.2* Cl-102 HCO3-17* AnGap-22*
___ 07:29AM BLOOD ALT-13 AST-18 LD(LDH)-505* CK(CPK)-24* 
AlkPhos-82 TotBili-1.0
___ 07:29AM BLOOD Albumin-3.1* Mg-1.9 Iron-52
___ 07:29AM BLOOD calTIBC-190* VitB12-374 Folate-4 
Hapto-<10* Ferritn-648* TRF-146*
___ 07:29AM BLOOD TSH-2.0
___ 07:30AM BLOOD CEA-1.7
___ 07:26AM BLOOD HIV Ab-Negative
___ 07:29AM BLOOD Lithium-0.9
___ 07:44AM BLOOD Lactate-1.2

DISCHARGE LABS
___ 07:06AM BLOOD WBC-4.6 RBC-3.02* Hgb-9.0* Hct-29.2* 
MCV-97 MCH-29.8 MCHC-30.8* RDW-18.4* RDWSD-61.5* Plt Ct-82*
___ 07:06AM BLOOD ___ PTT-30.0 ___
___ 07:06AM BLOOD Glucose-103* UreaN-6 Creat-0.7 Na-139 
K-3.3 Cl-107 HCO3-22 AnGap-13
___ 06:28AM BLOOD ALT-8 AST-13 LD(LDH)-463* AlkPhos-55 
TotBili-0.6
___ 07:06AM BLOOD Calcium-8.3* Phos-2.8 Mg-1.7

MICRO:
BCx ___ negative
UCx ___ negative
RPR ___ negative
Cdiff ___ negative
Stool Cx ___ negative

IMAGING:
RUQ US ___. Distended gallbladder with a small amount of sludge.  There 
are no 
sonographically specific signs to suggest cholecystitis.  No 
gallstones, wall thickening, or pericholecystic fluid 
identified.  Howeve,r cholecystitis cannot be excluded on the 
basis of this exam.  A HIDA scan is recommended to Exclude 
cholecystitis if there is clinical concern. 
2. Right pleural effusion incidentally noted.  No ascites. 
3. Re- demonstration of the known large right perinephric 
hematoma. 
4. Mild splenomegaly. 

ECHO ___
The left atrium is mildly elongated. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The aortic valve leaflets 
(?#) appear structurally normal with good leaflet excursion. 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve appears structurally normal with trivial 
mitral regurgitation. The pulmonary artery systolic pressure 
could not be determined. There is an anterior space which most 
likely represents a prominent fat pad. 
IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with preserved global biventricular systolic 
function. Mildly dilated aortic root. No pathologic flow 
identified.

CT TORSO ___. No evidence for metastatic disease in the abdomen and pelvis 
2. Known colonic lesions are not visualized on this examination 
as the colon is collapsed. 
3. Stable size and appearance of right perinephric and 
retroperitoneal 
hematoma, status post coiling of right renal arteries.

COLONOSCOPY ___
At least 10 adenomatous appearing polyps (5-15mm) were found in 
the transverse and descending colon. Numerous (>10) adenomatous 
appearing polyps (5-15mm) were found surrounding the masses in 
the ascending colon. A 5 cm fungating mass was found in the 
cecum. The scope traversed the lesion. Cold forceps biopsies 
were performed for histology at the cecum. Another 5 cm 
fungating mass was found in the ascending colon. The scope 
traversed the lesion. Cold forceps biopsies were performed for 
histology at the right colon. 1 5 ___ ink injection was 
applied for tattooing with success just distal to the ascending 
colon mass. 

EGD ___
A single 4 mm non-bleeding polyp was found in the duodenal bulb. 
A piece-meal polypectomy was performed using a cold forceps in 
the duodenum. The polyp was completely removed.  

 
Brief Hospital Course:
Mr. ___ ___ yo M with history of recent renal embolization 
(___) for perinephric and RP hematoma due to a 
renal lac from complications of lithotropsy who was transferred 
from OSH with fever (100.4 at OSH), nausea/vomiting and GI 
bleed, underwent colonoscopy and found to have ulcerated lesion 
c/f colon adenocarcinoma.  Colorectal surgery evaluated the 
patient and recommended outpatient follow up for surgical 
consideration.

Investigations/Interventions:
1. Nausea, vomiting, maroon stools: patient underwent 
EGD/colonoscopy on ___ for these symptoms, with colonoscopy 
showing > 10 polyps in the ascending colon with an associated 
5cm fungating mass in the cecum.  Of note, his mother did have 
colon cancer that required hemicolectomy.  This was biopsied 
with path PND at time of discharge.  He was evaluated by 
colorectal surgery who thought hereditary colon cancer was a 
possibility.  CT Torso was reviewed for staging which was 
negative for any evidence of metastasis.  CEA level 1.7.  He 
will follow up with colorectal surgery, genetics counseling, and 
GI as an outpatient for further management.

2. Thrombocytopenia: patient had platelets consistently in ___ 
to low 100's while inpatient.  Also has associated splenomegaly 
on imaging.  We are working on a hematology appointment as an 
outpatient to be arranged.  Rehab can call ___ if they 
do not hear about appointment by ___.

3. Blood loss anemia: with recent renal embolization for 
perinephric and RP hematoma.  H/H was monitored in house and 
stable, he did not require any transfusions.  Discharge H/H 
___.

Transitional Issues:
[]Follow up appointments: Genetics, Colorectal Surgery, GI all 
scheduled.  Hematology appointment PND.
[]Please follow up final pathology results from colonoscopy
[]Patient had small amount of blood in urine, consider repeat to 
ensure resolution of hematuria as outpt
[]Please note that patient has flat affect at baseline

#Code status: Full
#Contact: ___ (sister) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 750 mg PO BID 
2. Lithium Carbonate 300 mg PO BID 
3. RisperiDONE 2 mg PO BID 
4. Topiramate (Topamax) 100 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 
7. Acetaminophen 650 mg PO Q6H 
8. Docusate Sodium 100 mg PO BID 
9. Zonisamide 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  Finasteride 5 mg PO DAILY  
4.  LevETIRAcetam 750 mg PO BID  
5.  Lithium Carbonate 300 mg PO BID  
6.  RisperiDONE 2 mg PO BID  
7.  Tamsulosin 0.4 mg PO QHS  
8.  Topiramate (Topamax) 100 mg PO BID  
9.  Zonisamide 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Multiple polyps in colon with 5cm fungating mass
Acute blood loss anemia

*Anticipated rehab stay < 30 days*

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

You were hospitalized with fever, nausea, and vomiting.  We 
treated you with antibiotics then performed a procedure called 
colonoscopy.  Unfortunately this showed multiple polyps that are 
concerning for cancer.  You then met with our colorectal surgery 
team who would like to meet with you in clinic to discuss 
surgical options.

Our physical therapists worked with you and recommended physical 
rehabilitation so you are being discharged to a rehabilitation 
facility to make you stronger.

It was a pleasure taking care of you!
Your ___ team

*Anticipated rehab stay < 30 days*

 
Followup Instructions:
___